US06673795B2
In analogy to the procedure described in example 57c, the 2-methylsulfanyl-4-(4-phenyl-piperidin-1-yl)-6-(2,2,2-trifluoro-ethoxy)-pyrimidine-5-carbonitrile was oxidized by 3-chloro-perbenzoic acid to the 2-methanesulfonyl-4-(4-phenyl-piperidin-1-yl)-6-(2,2,2-trifluoro-ethoxy)-pyrimidine-5-carbonitrile which was then treated in crude form with 3-picolylamine in dioxane at 40° C. during 18 hours to yield the 4-(4-phenyl-piperidin-1-yl)-2-[(pyridin-3-ylmethyl)-amino]-6-(2,2,2-trifluoro-ethoxy)-pyrimidine-5-carbonitrile as an amorphous, light brown solid; MS: [M+H]+=469.

reactant | 2-methylsulfanyl-4-(4-phenyl-piperidin-1-yl)-6-(2,2,2-trifluoro-ethoxy)-pyrimidine-5-carbonitrile | CSC1=NC(=C(C(=N1)N1CCC(CC1)C1=CC=CC=C1)C#N)OCC(F)(F)F | C19H19F3N4OS
reactant | 3-chloro-perbenzoic acid | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 2-methanesulfonyl-4-(4-phenyl-piperidin-1-yl)-6-(2,2,2-trifluoro-ethoxy)-pyrimidine-5-carbonitrile | CS(=O)(=O)C1=NC(=C(C(=N1)N1CCC(CC1)C1=CC=CC=C1)C#N)OCC(F)(F)F | C19H19F3N4O3S
reactant | 3-picolylamine | N1=CC(=CC=C1)CN | C6H8N2
solvent | dioxane | O1CCOCC1 | C4H8O2
product | 4-(4-phenyl-piperidin-1-yl)-2-[(pyridin-3-ylmethyl)-amino]-6-(2,2,2-trifluoro-ethoxy)-pyrimidine-5-carbonitrile | C1(=CC=CC=C1)C1CCN(CC1)C1=NC(=NC(=C1C#N)OCC(F)(F)F)NCC=1C=NC=CC1 | C24H23F3N6O
